US06911338B2
1-Butanol, 3 methyl, acetate. Under an atmosphere of argon, acetyl chloride (6.5 ml, 91.8 mmol) was added dropwise to a 0° C. solution of isoamyl alcohol (5 ml, 45.9 mmol), N, N-dimethylpyridine (2.8 g, 23 mmol), and anhydrous pyridine (4.1 ml, 50.5 mol) in dichloromethane (92 ml). The reaction mixture was poured into 100 ml of 0.1 N HCl, and the resulting layers were separated. The organic layer was washed with 50 ml of saturated aqueous ammonium chloride then dried over magnesium sulfate. The organic layer was filtered and concentrated in vacuo to a clear oil. The resulting oil was purified by distillation (bp 134-136° C.) to give isoamyl acetate. 1H NMR (300 MHz, CDCl3) 4.08 (t, 2H, J 6.9), 2.03 (s, 3H), 1.68 (m, 1H), 1.51 (q, 2H, J 6.9), 0.92 (d, 6H, J 6.6).

reactant | acetate | C(C)(=O)[O-]
reactant | acetyl chloride | 91.8 mmol, 6.5 ml | C(C)(=O)Cl | C2H3ClO
reactant | isoamyl alcohol | 45.9 mmol, 5 ml | C(CC(C)C)O | C5H12O
reactant | pyridine | 50.5 mol, 4.1 ml | N1=CC=CC=C1 | C5H5N
reactant | HCl | 0.1 N, 100 ml | Cl | ClH
solvent | dichloromethane | 92 ml | ClCCl | CH2Cl2
solvent | 1-Butanol | C(CCC)O | C4H10O
product | isoamyl acetate | C(C)(=O)OCCC(C)C | C7H14O2
